US07378415B2
A solution of 4-benzenesulfonyl-2-methoxy-1-nitro-benzene (4.69 g, 16 mmol) was dissolved in 250 mL of methylene chloride and cooled to 0° C. BBr3 (64 mL, 1M in methylene chloride) was added dropwise to the reaction mixture over 30 minutes. Stirring was continued, and the reaction mixture was allowed to warm up to room temperature. Methylene chloride (200 mL) was added to the reaction mixture and the organic layer was washed twice with 450 mL of water, once with 200 mL of saturated NaHCO3, dried (MgSO4) and concentrated in vacuo. The residue was recrystallized from ethanol to afford 3.206 g (11.5 mmol, 72%) of 5-benzenesulfonyl-2-nitro-phenol as a yellow solid. MS: 280 (M+H)+.

reactant | 4-benzenesulfonyl-2-methoxy-1-nitro-benzene | 16 mmol, 4.69 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C13H11NO5S
reactant | BBr3 | 1M, 64 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 5-benzenesulfonyl-2-nitro-phenol | 11.5 mmol, 3.206 g, 72% | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC(=C(C1)O)[N+](=O)[O-] | C12H9NO5S
